2184-06-01 11:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Sepsis, mental status change
   24 Hour Events:
   Orthopedics attempted bedside arthrocentesis unsuccessfully. Repeat
   attempt successful this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-1**] 05:00 AM
   Piperacillin - [**2184-6-1**] 06:30 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-6-1**] 05:24 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-1**] 05:24 AM
   Other medications:
   Senna, Colace, levofloxacin, Vancomycin, hydrocort 100 iv q8, Zosyn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-1**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 124 (113 - 124) bpm
   BP: 97/81(85) {97/58(72) - 142/102(110)} mmHg
   RR: 19 (19 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,913 mL
   PO:
             TF:
   IVF:
   1,913 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    840 mL
   Urine:
   840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,073 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: RUQ, Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: R shoulder tender to palpation, tender with any
   motion, no fluctuance noted
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Oriented (to):
   name, city but not hospital, year but not month, Movement: Not
   assessed, Tone: Not assessed, circumferential and tangential speech
   noted
   Labs / Radiology
   9.2 g/dL
   293 K/uL
   96 mg/dL
   2.3 mg/dL
   19 mEq/L
   4.9 mEq/L
   52 mg/dL
   100 mEq/L
   131 mEq/L
   28.9 %
   15.9 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
   WBC
   15.9
   Hct
   UN
   Plt
   293
   Cr
   2.3
   Glucose
   96
   Other labs: PT / PTT / INR:14.5/24.5/1.3, ALT / AST:82/93, Alk Phos / T
   Bili:94/1.0, Differential-Neuts:76.0 %, Band:7.0 %, Lymph:5.0 %,
   Mono:4.0 %, Eos:4.0 %, Albumin:2.3 g/dL, LDH:320 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:4.0 mg/dL
   Fluid analysis / Other labs: pre-ACTH cortisol- pending
   post-ACTH cortisol- 28.5
   UA- contaminated
   FENa- 0.8%
   Microbiology: [**6-1**] R shoulder arthocentesis- pending
   [**5-31**] Blood, urine- pending
   [**Date range (1) 7547**] Blood (OSH)- neg to date
   Assessment and Plan
   63-year-old man with severe sepsis vs. septic shock, c/b acute renal
   failure and ?encephalopathy.  Source is most likely fluid collection
   near right shoulder.
   Severe Sepsis- concern for R shoulder septic arthritis; given abd pain
   would also consider abd source
   - vanco / zosyn / levoflox for now until cx back.  Follow early
   potential drug rash; may need to change therapy.  Narrow rx soon.
   - s/p arthrocentesis this AM --> f/u gm stain and cx, WBC ct. If high
   suspicion for infection then plan for OR debridement
   - blood cx and urine cx; f/u OSH cultures
   -start with KUB today; OSH RUQ U/S without GB/ gallstone pathology
   Shock- sepsis +/- hypovolemia +/- adrenal insufficiency (hx
   adrenalectomy), resolved w/ fluid resuscitation (total 1L since admit)
   and stress-dose steroids
   -stable since admission OFF pressors
   -central venous catheter if hypotensive; for now will attempt PICC
   placement
   -f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] stim test and wean steroids today
   Acute renal failure- low FENa
   -stable creat here but will trend with fluid resuscitation
   -good UOP
   Tachycardia- will check ECG though likely related to pain or anxiety
   from agitation
   -treat for EtOH as below
   Mild transaminitis- spontaneously resolving
   Encephalopathy / altered mental status- hx of heavy opiate use at OSH,
   perhaps some withdrawal or related agitation related to pain. Also
   considering infection and need to r/o subdural bleed.
   -for now will use prn antipsychotics (Haldol)
   -per pt's wife pt is a very heavy drinker but time course not classic
   for EtOH withdrawal; consider CIWA protocol anxiolytics
   -thiamine and folate
   -CT head to r/o subdural hematoma given prior fall and trauma
   -will screen for Lyme and Erhlichia given constellation of AMS +
   transaminitis + arthralgia though this is much much less likely
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: npo for possible surgery today
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-6-1**] 02:00 AM
   22 Gauge - [**2184-6-1**] 03:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments: need to contact pt's wife today to clarfiy
   baselien mental status
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2184-06-02 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2184-6-1**] 03:00 PM
 PICC LINE - START [**2184-6-1**] 06:00 PM
   - Ortho: Tapped R shoulder. Not grossly septic per cell count; gram
   stain with PML but no microorg. Will review OSH MRI shoulder (images
   uploaded), consider MRI shoulder. Keep NPO but no OR for now.
   - AMS: Lyme/erlichia titers ordered. CT head ordered with no acute
   intracranial process on wet read. Sedated with Haldol. Ddx narc
   withdrawal. Less likely EtOH withdrawal (last drink 2 weeks ago).
   - In Aflutter. TTE ordered.
   - Haldol frequency increased as still agitated
   - HR sustained in 130s -> lopressor 5mg x1. Restarted on metop 12.5mg
   [**Hospital1 **] with holding parameters.
   - spoke with PCP today who reiterated that to his knowledge he drinks
   only on the weekends
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-1**] 05:00 AM
   Piperacillin - [**2184-6-1**] 06:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-2**] 05:54 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2184-6-2**] 01:59 AM
   Haloperidol (Haldol) - [**2184-6-2**] 04:05 AM
   Famotidine (Pepcid) - [**2184-6-2**] 05:53 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-2**] 05:54 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.1
   HR: 144 (74 - 144) bpm
   BP: 161/95(110) {96/48(50) - 199/120(196)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  2,921 mL
                                                                    574 mL
   PO:
             TF:
   IVF:
                                                                  2,921 mL
                                                                    574 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    395 mL
   Urine:
                                                                  1,705 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                    179 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///19/
   Physical Examination
   General: Alert, oriented x 1, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Tachy, reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema. R
   shoulder. Very painful with movement
   Skin: diffuse erythematous rash over trunk/chest and arms.
   Labs / Radiology
   318 K/uL
   9.0 g/dL
   136 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.4 mEq/L
   57 mg/dL
   108 mEq/L
   138 mEq/L
   28.1 %
   21.9 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
   WBC
   15.9
   21.9
   Hct
   28.9
   28.1
   Plt
   293
   318
   Cr
   2.3
   1.4
   Glucose
   96
   136
   Other labs: PT / PTT / INR:15.1/23.6/1.3, ALT / AST:60/53, Alk Phos / T
   Bili:90/0.6, Amylase / Lipase:38/31, Differential-Neuts:76.0 %,
   Band:7.0 %, Lymph:5.0 %, Mono:4.0 %, Eos:4.0 %, Albumin:2.2 g/dL,
   LDH:320 IU/L, Ca++:8.0 mg/dL, Mg++:3.0 mg/dL, PO4:2.9 mg/dL
   ALT: 60
   AP: 90
   Tbili: 0.6
   Alb: 2.2
   AST: 53
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]: 38
   Lip: 31
   Vanco: 7.5
   PT: 15.1
   PTT: 23.6
   INR: 1.3
     Joint Fluid
                                      WBC
                                    [**Numeric Identifier 7576**]
                                      RBC
                                   [**Numeric Identifier 7577**]
                                     Poly
                                     94
                                     Lymph
                                      3
                                     Mono
                                      1
                                      EOs
   Bands: 2
   Crystal: None
   Cortsol: 14.4 and post- cosyntropin Cortsol: 28.5
   MICRO:
[**2184-6-1**] 5:36 am JOINT FLUID      Source: shoulder.
   GRAM STAIN (Final [**2184-6-1**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN. \
Blood and urine cx.
EHRLICHIA pending
   Assessment and Plan
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of Right shoulder joint.
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Does have h/o heavy EtOH,
   but now only drinks 2/7 nights per week according to wife. [**Name (NI) **] h/o
   illicit drug use prior. Concern for head trauma given prior fall, but
   head CT without acute process.  Had been getting lots of dilaudid at
   OSH so may be related to narcotic withdrawal.  Stress dose steroids
   also likely contributing.
   - Thiamine, folate, MVI
   - Continue haldol PRN for agitation
   - Lyme and Erlichia serologies as above
   - discontinue stress dose steroids as normal [**Last Name (un) **] stim and significant
   agitation currently
   - will obtain emergent psychiatry consult given escalating agitation
   and consider intubation for protection
   - will continue with higher dose haldol for agitation (5 mg IV QID with
   5-10 mg IV Q4:PRN)
   - will address constipation if can control agitation
   - [**Hospital1 **] EKGs while receiving haldol
   Septic shock: Presents in ARF with altered mental status, leukocytosis
   and bandemia.  Concern for septic right shoulder. Question of
   lyme/erhlichia given AMS, shoulder pain, rash; exposure unknown
   - f/u arthrocentesis culture, cell count not consistent with septic
   joint
   - MRI second opinion read pending
   - await ortho recs re: OR
   - f/u blood and urine cx from both here and [**Location (un) 196**]
   - continue vanc/zosyn (vancomycin trough this morning was low so will
   increase to Q12H dosing)
   - will discontinue levofloxacin given concern for agitation
   - check lyme/erlichia serologies
   - goal MAP< 60
   - PICC line for IV access
   S/p adrenalectomy: Shock may also be [**12-29**] to adrenal insufficiency given
   R adrenalectomy.  Also with hyponatremia and hyperkalemia. [**Last Name (un) 567**] stim
   was normal
   - discontinue steroids
   Hyponatremia: patient appears hypervolemic and may be related to
   adrenal insufficiency.
   - Would not correct at this point as he is 130s
   - continue to monitor
   Acute renal failure: Cr down to 2.3 from peak of 3.1 at OSH on [**2184-5-30**].
   FENa 0.8 suggests prerenal etiology. Ddx includeds hypovolemia,
   shock/ATN, AIN.
   - continue to fluid challenge if < 30 cc/hr UOP
   - trend Cr
   Tachycardia: Atrial flutter with PACs.  Currently rates in the 120s.
   - metoprolol 5 mg IV Q6
   - continue to address tachycardia
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. ?Lyme/erlichia as above
   - cont to trend LFTs
   - Lyme and erlichia work-up as above
   Rash: diffuse and erythematous, may be drug rash possibly related to
   Zosyn. Question of Lyme/erlichia as above. Stable.
   - continue to monitor
   Anemia: Hct appears stable at low 30 - high 20s
   - continue to monitor
   ICU Care
   Nutrition: NPO
   Glycemic Control:  SQ heparin
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) 7578**]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2184-06-02 10:57:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Delirium, sepsis
   24 Hour Events:
   agitated during the day yesterday and overnight- requiring 4mg Ativan
   overnight and 15-20mg Haldol IV.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2184-6-1**] 06:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-2**] 05:54 AM
   Vancomycin - [**2184-6-2**] 08:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2184-6-2**] 01:59 AM
   Famotidine (Pepcid) - [**2184-6-2**] 05:53 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-2**] 05:54 AM
   Metoprolol - [**2184-6-2**] 07:24 AM
   Haloperidol (Haldol) - [**2184-6-2**] 09:57 AM
   Other medications:
   Pepcid, Heparin sc tid, Colace, Levofloxacin, vancomycin, pip-tazo,
   folate, MVI, metoprolol, Haldol, hydrocort 50 q8
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-2**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.5
C (97.7
   HR: 110 (74 - 144) bpm
   BP: 188/33(120) {96/33(50) - 199/108(196)} mmHg
   RR: 24 (14 - 29) insp/min
   SpO2: 94%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  2,921 mL
                                                                    964 mL
   PO:
             TF:
   IVF:
                                                                  2,921 mL
                                                                    964 mL
   Blood products:
   Total out:
                                                                  1,705 mL
                                                                    665 mL
   Urine:
                                                                  1,705 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///19/
   Physical Examination
   General Appearance: No(t) No acute distress, Anxious, Diaphoretic,
   agitated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, Tender: RUQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name only, Movement: Not assessed, Tone: Not
   assessed, agitated and combative
   Labs / Radiology
   9.0 g/dL
   318 K/uL
   136 mg/dL
   1.4 mg/dL
   19 mEq/L
   4.4 mEq/L
   57 mg/dL
   108 mEq/L
   138 mEq/L
   28.1 %
   21.9 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
   WBC
   15.9
   21.9
   Hct
   28.9
   28.1
   Plt
   293
   318
   Cr
   2.3
   1.4
   Glucose
   96
   136
   Other labs: PT / PTT / INR:15.1/23.6/1.3, ALT / AST:60/53, Alk Phos / T
   Bili:90/0.6, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Albumin:2.2 g/dL,
   LDH:320 IU/L, Ca++:8.0 mg/dL, Mg++:3.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CT head [**6-1**]- prelim read no bleeding
   Microbiology: R shoulder fluid aspirate- Gm stain neg
   OSH cultures- pending
   Assessment and Plan
   63-year-old man with altered mental status. Previous concern for R
   shoulder septic arthritis which today seems less likely. Still very
   delirious and agitated
   Encephalopathy / altered mental status- hx of heavy opiate use at OSH,
   perhaps some withdrawal or related agitation related to pain. CT head
   negative. Very agitated despite heavy doses of antipsychosis
   -appreciate urgent Psych curbside rec
s very much; will start scheduled
   Haldol 5 q6 scheduled and prn dosing
   -avoid benzos at this point to miminimize paradoxical agitation that
   may occur
   -thiamine and folate
   -f/u Lyme and Erhlichia given constellation of AMS + transaminitis +
   arthralgia though this is much much less likely
   -dc steroids and levofloxacin for the possiblity of their contribution
   to altered mental status
   -consider MRI brain when more stable
   -intubate if continued agitation
   Possible [**Name (NI) 7579**] unclear now if ever septic. OSH UTI, no apparent
   current source. Still w/ R shoulder as a source but less likely
   -vanco / zosyn / levoflox so far; dc levofloxacin today as above
   -f/u OSH cultures, UA was dirty there
   -f/u shoulder aspirate and Ortho recs, await formal read on MRI
   shoulder from OSH ( uploaded here)
   Acute renal failure- resolving with IVF
   Transaminitis- resolving
   Tachycardia- ECG c/w a flutter yesterday
   -rate control with metoprolol for now
   -echo ordered
   Constipation, Abd distension- would like to treat but agitation
   limiting now
   -check KUB
   Rest of plan as per housestaff note
   ICU Care
   Nutrition: npo while agitated
   Glycemic Control:
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2184-06-03 06:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2184-6-2**] 07:30 PM
   - received increasing doses of haldol for agitation without effect
   (nearly 100 mg)
   - QT interval stable at 460 despite haldol
   - switched to ativan with improvement in agitation
   - had KUB in early afternoon with dilated loop of bowel concerning for
   cecal volvulus
   - intubated for agitation and to receive appropriate workup
   - received CT scan of abdomen, results pending
   - cultures from [**Location (un) 196**] prior to transfer with no growth in urine and
   blood cultures
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2184-6-1**] 06:30 AM
   Vancomycin - [**2184-6-2**] 09:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-3**] 12:28 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2184-6-2**] 07:24 AM
   Haloperidol (Haldol) - [**2184-6-2**] 03:48 PM
   Lorazepam (Ativan) - [**2184-6-2**] 04:45 PM
   Heparin Sodium (Prophylaxis) - [**2184-6-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-3**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.4
   HR: 64 (64 - 132) bpm
   BP: 141/63(80) {103/33(59) - 188/124(136)} mmHg
   RR: 19 (15 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,830 mL
                                                                  1,506 mL
   PO:
             TF:
   IVF:
                                                                  2,930 mL
                                                                  1,406 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    300 mL
   Urine:
                                                                  1,065 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,765 mL
                                                                  1,206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 99%
   ABG: ///24/
   Ve: 8.8 L/min
   Physical Examination
   General: Alert, oriented x 1, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Tachy, reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema. R
   shoulder. Very painful with movement
   Skin: diffuse erythematous rash over trunk/chest and arms.
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   332 K/uL
   8.2 g/dL
   114 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.7 mEq/L
   58 mg/dL
   107 mEq/L
   141 mEq/L
   24.7 %
   11.6 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
   WBC
   15.9
   21.9
   11.6
   Hct
   28.9
   28.1
   24.7
   Plt
   293
   318
   332
   Cr
   2.3
   1.4
   1.4
   Glucose
   96
   136
   114
   Ca: 7.5 Mg: 3.0 P: 3.7
   ALT: 46
   AP: 72
   Tbili: 0.4
   Alb: 2.1
   AST: 42
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
   PT: 14.8
   PTT: 23.2
   INR: 1.3
   Lactate:1.1
[**2184-6-1**] 5:36 am JOINT FLUID      Source: shoulder.
   GRAM STAIN (Final [**2184-6-1**]):
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
   Urine cx: no growth
   Lyme serology: Pending
   EHRLICHIA: Pending
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of Right shoulder joint.
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Does have h/o heavy EtOH,
   but now only drinks 2/7 nights per week according to wife. [**Name (NI) **] h/o
   illicit drug use prior. Concern for head trauma given prior fall, but
   head CT without acute process.  Had been getting lots of dilaudid at
   OSH so may be related to narcotic withdrawal.  Stress dose steroids
   also likely contributing
 now d/c
   - Thiamine, folate, MVI
   - Continue haldol PRN for agitation
   - Lyme and Erlichia serologies pending
   - will obtain emergent psychiatry consult given escalating agitation
   and consider intubation for protection
   - will continue with higher dose haldol for agitation (5 mg IV QID with
   5-10 mg IV Q4:PRN)
   - will address constipation if can control agitation
   - [**Hospital1 **] EKGs while receiving haldol
   Constipation: KUB concerning for cecal volvulus so he was intubated for
   CT abdomen
   - f/u final read of CT abd/pelv
   - bowel regimen with senna, colace, lactulose, and suppository once CT
   scan read
   Septic shock: Presents in ARF with altered mental status, leukocytosis
   and bandemia.  Concern for septic right shoulder although tap of
   shoulder joint not consistent with this. Question of lyme/erhlichia
   given AMS, shoulder pain, rash; exposure unknown
   - f/u arthrocentesis culture, cell count not consistent with septic
   joint
   - MRI second opinion read pending
   - await ortho recs re: OR
   - continue vanc/zosyn
   .
   S/p adrenalectomy: Initially presented with shock, hyponatremia, and
   hyperkalemia. [**Last Name (un) 567**] stim was normal
   - discontinue steroids
   Hyponatremia: patient appears hypervolemic and may be related to
   adrenal insufficiency.
   - Would not correct at this point as he is 130s
   - continue to monitor
   Acute renal failure: Cr down to 2.3 from peak of 3.1 at OSH on [**2184-5-30**].
   FENa 0.8 suggests prerenal etiology. Ddx includeds hypovolemia,
   shock/ATN, AIN.
   - continue to fluid challenge if < 30 cc/hr UOP
   - trend Cr
   Tachycardia: Atrial flutter with PACs.  Currently rates in the 120s.
   - metoprolol 5 mg IV Q6
   - continue to address tachycardia
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. ?Lyme/erlichia as above
   - cont to trend LFTs
   - Lyme and erlichia work-up as above
   Rash: diffuse and erythematous, may be drug rash. Question of
   Lyme/erlichia as above. Currently improving
   - continue to monitor
   Anemia: Hct appears stable at low 30 - high 20s
   - continue to monitor
   ICU Care
   Nutrition: consult for TF recs
   Glycemic Control:  SQ heparin
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:  bundle
   Comments:
   Communication:  Comments: wife [**Name (NI) 7578**]
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2184-06-03 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: mental status change, ETOH withdrawal , sepsis
   24 Hour Events:
   intubated yest pm for agitation and to accomplish diagnostic workup for
   poss volvulus on KUB and mental status. MRI brain and shoulder pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2184-6-1**] 06:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-3**] 06:26 AM
   Vancomycin - [**2184-6-3**] 07:58 AM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2184-6-2**] 03:48 PM
   Lorazepam (Ativan) - [**2184-6-2**] 04:45 PM
   Famotidine (Pepcid) - [**2184-6-3**] 06:25 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-3**] 06:25 AM
   Other medications:
   MVI, colace, thiamine, folate, Zosyn, mtoprolol, lactulose, vancomycin,
   propofol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-3**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.2
   HR: 70 (64 - 124) bpm
   BP: 108/62(73) {103/46(59) - 173/110(115)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.2 kg (admission): 125 kg
             Total In:
                                                                  3,830 mL
                                                                  3,038 mL
   PO:
             TF:
   IVF:
                                                                  2,930 mL
                                                                  2,878 mL
   Blood products:
   Total out:
                                                                  1,065 mL
                                                                    690 mL
   Urine:
                                                                  1,065 mL
                                                                    690 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,765 mL
                                                                  2,348 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 49
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   Compliance: 100 cmH2O/mL
   SpO2: 98%
   ABG: ///24/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   332 K/uL
   114 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.7 mEq/L
   58 mg/dL
   107 mEq/L
   141 mEq/L
   24.7 %
   11.6 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
   WBC
   15.9
   21.9
   11.6
   Hct
   28.9
   28.1
   24.7
   Plt
   293
   318
   332
   Cr
   2.3
   1.4
   1.4
   Glucose
   96
   136
   114
   Other labs: PT / PTT / INR:14.8/23.2/1.3, ALT / AST:46/42, Alk Phos / T
   Bili:72/0.4, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.5 mg/dL, Mg++:3.0 mg/dL, PO4:3.7
   mg/dL
   Imaging: [**6-2**] CT a/p- prelim read without apparent pathology, lung cuts
   with bibasilar consolidation/ infiltrate
   [**5-31**] OSH MRI shoulder- our read pending
   Microbiology: [**5-28**] Urine and blood cx- neg to date
   [**6-2**] Lyme and Erhlichia- pending
   Assessment and Plan
   63-year-old man with altered mental status. Previous concern for R
   shoulder septic arthritis which today seems less likely. Intubated yest
   pm for agitation and need for diagnostic testing.
   Encephalopathy / altered mental status- hx of heavy opiate use at OSH,
   perhaps some withdrawal or related agitation related to pain. CT head
   negative. Very agitated despite heavy doses of antipsychotics.
   Intubated yesterday pm.
   -responded very  well to ativan yest pm but intubated in the end. may
   be an unusual delayed EtOH withdrawal like process
   -currently sedated with propofol gtt and comfortable
   -thiamine and folate
   -f/u Lyme and Erhlichia given constellation of AMS + transaminitis +
   arthralgia though this is much much less likely
   -minimize any mild-altering agents
   -MRI brain today
   -consider LP if continued obtundation, although yield low with
   antibiotics
   -wean propofol after testing today.
   Possible Sepsis- most likely source at this point could be the
   bibasilar pneumonia seen on imaging, though this was not as apparent on
   admission and may have been related to aspiration in the setting of
   obtundation.
   -vanco / zosyn for now, difficult to course out now but if for
   pneumonia will limit to 10-14d.
   -f/u OSH cultures
   -f/u shoulder aspirate and Ortho recs, await formal read on MRI
   shoulder from OSH ( uploaded here)
   Question of volvulus- not seen on CT a/p w/ po contrast but w/ sig
   constipation
   -stool softeners for BM
   Acute renal failure- resolving with IVF
   Tachycardia- ECG c/w a flutter yesterday
   -rate control with metoprolol
   -echo pending today
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds ordered
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 mins

2184-06-04 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Lyme serologies negative.
   - Still awaiting MRI and TTE.
   - Hct drop was spurious as PM Hct was 27.8
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-3**] 08:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-4**] 05:45 AM
   Infusions:
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-6-4**] 05:45 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-4**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-4**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 91 (59 - 104) bpm
   BP: 159/100(113) {108/61(72) - 191/100(113)} mmHg
   RR: 26 (16 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 127.2 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  4,505 mL
                                                                  1,772 mL
   PO:
             TF:
   IVF:
                                                                  4,345 mL
                                                                  1,772 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    680 mL
   Urine:
                                                                  1,450 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,055 mL
                                                                  1,093 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 12 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 12.9 L/min
   Physical Examination
   General: Intubated and sedated, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, +ETT and OGT
   Neck: supple, JVP not elevated, no LAD
   Lungs: Breath sounds diminished b/l w/ bronchial sounds at bases, no
   rales
   CV: Reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema. R
   shoulder. Very painful with movement
   Neuro: Opens eyes and moves all extremities to command
   Labs / Radiology
   386 K/uL
   9.3 g/dL
   179 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   40 mg/dL
   107 mEq/L
   136 mEq/L
   28.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   Plt
   293
   318
   332
   386
   Cr
   2.3
   1.4
   1.4
   1.0
   Glucose
   96
   136
   114
   179
   Ca: 7.5 Mg: 2.8 P: 3.4
   ALT: 42
   AP: 76
   Tbili: 0.3
   Alb:
   AST: 38
   LDH:
   Dbili:
   TProt:
   [**Doctor First Name 293**]:
   Lip:
   Ehrlichia: pending
   Assessment and Plan
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of right shoulder joint.
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Concern for head trauma
   given prior fall, but head CT without acute process. Does have h/o
   heavy EtOH, but now only drinks 2/7 nights per week according to wife;
   did seem to have better response to ativan than haldol. No h/o illicit
   drug use prior. Likely [**12-29**] polypharmacy given OSH dilaudid, stress dose
   steroids (now d/c
d).   Lyme serologies negative.  Required intubation
   for studies on [**2184-6-2**].
   - MRI head still pending
   - Currently off haldol/ativan as sedated
   - Thiamine, folate, MVI
   - Erlichia serologies pending
   - appreciate curbside psych input
   Septic shock: Presents in ARF with altered mental status, leukocytosis
   and bandemia.  Has pneumonia on CT. Concern for septic right shoulder
   although tap of shoulder joint not consistent with this. Ehrlichia less
   likely.
   - continue vanc/zosyn for planned [**9-8**] day course (currently day 4)
   - f/u arthrocentesis culture, cell count not consistent with septic
   joint
   - check U/A and Ucx
   - f/u CT abd final read
   - awaiting MRI shoulder while intubated
   - f/u ortho recs
   Shoulder pain: Not clearly infected
   - Awaiting fluid culture and MRI, ortho recs
   - Start fentanyl boluses prn for pain
   Constipation: KUB concerning for cecal volvulus but not seen on CT
   abdomen.
   - Resolved with lots of stool overnight
   - f/u final read of CT abd/pelv
   - cont bowel regimen with senna, colace, lactulose, and suppository
   Tachycardia: Atrial flutter v. atrial fib with PACs. Rate improved on
   sedation.
   - metoprolol 5 mg IV Q6h
   - awaiting TTE; holding on systemic anticoagulation for now
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. ?Lyme/erlichia as
   above. Now resolving.
   - trend to nl
   - f/u final CT abd read
   - f/u ehrlichia serology
   Hypertension:
   - Cont metoprolol; restart [**Last Name (un) **] today and HCTZ as tolerated
   - Holding home clonidine given mental status
   Rash: diffuse and erythematous, may be drug rash. Question of
   Lyme/erlichia as above. Currently improving.
   - continue to monitor
   Anemia: Decreased Hct this AM
   - recheck pm Hct
   S/p adrenalectomy: Initially presented with shock, hyponatremia, and
   hyperkalemia. [**Last Name (un) 567**] stim was normal. Steroids discontinued.
   Acute renal failure: Cr down to 1.0 from peak of 3.1 at OSH on [**2184-5-30**]
   with improved UOP.  FENa 0.8 suggests prerenal etiology.
   - trend Cr
   Hyponatremia: Resolved.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2184-06-04 09:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ETOH withdrawal, Respiratory failure, Aspiration Pneumonia
   24 Hour Events:
   no events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-3**] 08:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-4**] 05:45 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-6-4**] 05:45 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-4**] 05:45 AM
   Other medications:
   Senna, MVI, thiamine, folate, pip-tazo, lactulose, vanco, mucomyst,
   propofol, peridex, lopressor 50 tid, colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-4**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 84 (59 - 104) bpm
   BP: 151/88(103) {108/61(72) - 191/100(113)} mmHg
   RR: 25 (18 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  4,505 mL
                                                                  1,874 mL
   PO:
             TF:
   IVF:
                                                                  4,345 mL
                                                                  1,814 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    940 mL
   Urine:
                                                                  1,450 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,055 mL
                                                                    934 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 72
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 10.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: R base, Diminished: L
   base, No(t) Rhonchorous: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   386 K/uL
   179 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.2 mEq/L
   40 mg/dL
   107 mEq/L
   136 mEq/L
   28.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   Plt
   293
   318
   332
   386
   Cr
   2.3
   1.4
   1.4
   1.0
   Glucose
   96
   136
   114
   179
   Other labs: PT / PTT / INR:14.8/23.2/1.3, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.5 mg/dL, Mg++:2.8 mg/dL, PO4:3.4
   mg/dL
   Microbiology: [**6-1**] Lyme serologies- neg
   [**6-1**] Ehrlichia serologies- pending
   [**6-1**] admission pan-cultures including shoulder- neg or pending
   Assessment and Plan
   63-year-old man with altered mental status. Previous concern for R
   shoulder septic arthritis which today seems less likely. Intubated yest
   pm for agitation and need for diagnostic testing.
   Encephalopathy / altered mental status- hx of heavy opiate use at OSH,
   perhaps some withdrawal or related agitation related to pain. CT head
   negative. Very agitated despite heavy doses of antipsychotics.
   Intubated [**6-2**] pm for airway protection
   -responded very  well to ativan yest pm but intubated in the end. may
   be an unusual delayed EtOH withdrawal like process
   -currently sedated with propofol gtt and comfortable
   -thiamine and folate
   -f/u Erhlichia given constellation of AMS + transaminitis + arthralgia
   though this is much much less likely
   -minimize any mild-altering agents
   -MRI brain today
   -wean propofol after testing today
   Possible Sepsis- most likely source at this point could be the
   bibasilar pneumonia seen on imaging, though this was not as apparent on
   admission and may have been related to aspiration in the setting of
   obtundation.
   -vanco / zosyn for now, difficult to course out now but if for
   pneumonia will limit to 10-14d.
   -f/u OSH cultures
   -f/u Ortho recs, await repeat MRI shoulder
   Mechanical Ventilation- for altered mental status as above
   -poss PSV trial today
   Acute renal failure- resolving with IVF
   Tachycardia- ECG c/w a flutter on [**6-1**]
   -rate control with metoprolol
   -echo pending today
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2184-06-05 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2184-6-4**] 08:30 PM
   Right shoulder
   - MRI shoulder done; ortho notified. Tube feeds held in case of
   intervention. Need to wait 12 hours for MRI head.
   - TTE not done.
   - Fentanyl boluses prn for pain
   - Restarted on losartan (home irbesartan) for BP control
   - Question of cuff leak. ETT advanced 2 cm. Port CXR showed ETT still
   6cm above carina.
   - Suctioned a lot of thick green secretions
   - Given enema with large stool UOP
   - U/A unremarkable, Ucx pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-4**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-5**] 06:39 AM
   Infusions:
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-6-5**] 06:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-5**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.8
   HR: 88 (78 - 99) bpm
   BP: 146/87(101) {117/69(80) - 185/118(132)} mmHg
   RR: 22 (17 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  3,690 mL
                                                                    732 mL
   PO:
             TF:
                                                                     69 mL
   IVF:
                                                                  3,381 mL
                                                                    732 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                  1,880 mL
   Urine:
                                                                  2,740 mL
                                                                  1,280 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                    950 mL
                                                                 -1,148 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 451 (451 - 699) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 14.5 L/min
   Physical Examination
   General: Intubated and sedated, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, +ETT and OGT
   Neck: supple, JVP not elevated, no LAD
   Lungs: Breath sounds diminished b/l w/ bronchial sounds at bases, no
   rales
   CV: Reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema. R
   shoulder. Very painful with movement
   Neuro: Opens eyes to command
   Labs / Radiology
   382 K/uL
   9.8 g/dL
   101 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.5 mEq/L
   17 mg/dL
   109 mEq/L
   140 mEq/L
   30.1 %
   14.2 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   Plt
   293
   318
   332
   386
   382
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   Glucose
   96
   136
   114
   179
   101
   Other labs: PT / PTT / INR:12.6/22.4/1.1, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.7 mg/dL, Mg++:2.5 mg/dL, PO4:2.9
   mg/dL
   Microbiology:
   Urine culture [**2184-6-4**]: pending
   Imaging:
   MRI shoulder pending
   Assessment and Plan
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of right shoulder joint.
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Concern for head trauma
   given prior fall, but head CT without acute process. Does have h/o
   heavy EtOH, but now only drinks 2/7 nights per week according to wife;
   did seem to have better response to ativan than haldol. No h/o illicit
   drug use prior. Likely [**12-29**] polypharmacy given OSH dilaudid, stress dose
   steroids (now d/c
d).   Lyme serologies negative.  Required intubation
   for studies on [**2184-6-2**].
   - MRI head still pending
   - Currently off haldol as sedated; ativan prn for comfort
   - Thiamine, folate, MVI
   - Erlichia serologies pending
   - appreciate curbside psych input
   Septic shock: Presents in ARF with altered mental status, leukocytosis
   and bandemia.  Has pneumonia on CT. Concern for septic right shoulder
   although tap of shoulder joint not consistent with this. Ehrlichia less
   likely.
   - continue vanc, switch zosyn to meropenem for planned [**9-8**] day course
   (currently day 4)
   - f/u arthrocentesis culture, cell count not consistent with septic
   joint
   - f/u MRI shoulder
   - f/u urine culture
   - f/u ortho recs
   Shoulder pain: Not clearly infected but abnormal MRI imaging
   - f/u MRI shoulder read
   - NPO for now awaiting fluid culture and MRI, ortho recs
   - Start fentanyl boluses prn for pain with ativan boluses prn
   Constipation: KUB concerning for cecal volvulus but not seen on CT
   abdomen.
   - Resolved with lots of stool overnight
   - cont bowel regimen with senna, colace, lactulose, and suppository
   Tachycardia: Atrial flutter v. atrial fib with PACs. Rate improved on
   sedation.
   - metoprolol 5 mg IV Q6h
   - awaiting TTE; holding on systemic anticoagulation for now
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. ?Lyme/erlichia as
   above. Now resolving.
   - trend to nl
   - f/u ehrlichia serology
   Hypertension:
   - Cont metoprolol; restart [**Last Name (un) **] today and HCTZ as tolerated
   - Holding home clonidine given mental status
   Rash: diffuse and erythematous, most likely drug rash to zosyn.
   Question of Lyme/erlichia as above. Currently improving.
   - change zosyn to meropenem
   - continue to monitor
   Anemia: Decreased Hct this AM
   - recheck pm Hct
   S/p adrenalectomy: Initially presented with shock, hyponatremia, and
   hyperkalemia. [**Last Name (un) 567**] stim was normal. Steroids discontinued.
   Acute renal failure: Cr down to 1.0 from peak of 3.1 at OSH on [**2184-5-30**]
   with improved UOP.  FENa 0.8 suggests prerenal etiology.
   - trend Cr
   Hyponatremia: Resolved.
   Respiratory status: Advance ETT additional 2 cm and repeat CXR
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2184-06-05 10:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Left shoulder Septic arthritis, respiratory failure
   24 Hour Events:
   still no echo done or MRI brain. underwent MRI shoulder yest.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-5**] 06:39 AM
   Vancomycin - [**2184-6-5**] 07:35 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-6-5**] 06:39 AM
   Lorazepam (Ativan) - [**2184-6-5**] 07:53 AM
   Other medications:
   meds reviewed
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-5**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.2
C (99
   HR: 79 (75 - 99) bpm
   BP: 144/89(103) {104/57(68) - 185/118(132)} mmHg
   RR: 24 (17 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  3,690 mL
                                                                  1,285 mL
   PO:
             TF:
                                                                     69 mL
   IVF:
                                                                  3,381 mL
                                                                  1,195 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                  3,460 mL
   Urine:
                                                                  2,740 mL
                                                                  1,560 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                    950 mL
                                                                 -2,175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 481 (451 - 699) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 61
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 10.1 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: B bases), continues to
   bring up greenish secretions
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Rash: blanching erythematous maculopapular rash on
   trunk and extremities
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   382 K/uL
   101 mg/dL
   0.8 mg/dL
   23 mEq/L
   4.5 mEq/L
   17 mg/dL
   109 mEq/L
   140 mEq/L
   30.1 %
   14.2 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   Plt
   293
   318
   332
   386
   382
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   Glucose
   96
   136
   114
   179
   101
   Other labs: PT / PTT / INR:12.6/22.4/1.1, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.7 mg/dL, Mg++:2.5 mg/dL, PO4:2.9
   mg/dL
   Imaging: [**6-5**] CXR- ETT 6cm above carina, dense L lower consolidation
   Microbiology: [**6-4**] pan culture- neg or pending
   [**6-1**] R shoulder aspirate- neg
   Assessment and Plan
   63-year-old man with altered mental status. Previous concern for R
   shoulder septic arthritis which today seems less likely. Intubated [**6-2**]
   pm for agitation and need for diagnostic testing.
   Encephalopathy / altered mental status- hx of heavy opiate use at OSH,
   perhaps some withdrawal or related agitation related to pain. CT head
   negative. Very agitated despite heavy doses of antipsychotics.
   Intubated [**6-2**] pm for airway protection
   -responded very  well to ativan yest pm but intubated in the end. may
   be an unusual delayed EtOH withdrawal like process
   -currently sedated with propofol gtt and comfortable, responded well to
   Ativan bolus
   -thiamine and folate
   -f/u Erhlichia given constellation of AMS + transaminitis + arthralgia
   though this is much much less likely
   -minimize any mild-altering agents
   -MRI brain today
   -wean propofol after testing today
   Possible Sepsis- most likely source at this point could be the
   bibasilar pneumonia seen on imaging, though this was not as apparent on
   admission and may have been related to aspiration in the setting of
   obtundation. Repeat MRI shoulder w/ anterior fluid collection, awaits
   retap
   -vanco / zosyn for now, difficult to course out now but if for
   pneumonia will limit to 10-14d.  Will change to vanco + meropenem given
   drug rash.
   -f/u OSH cultures
   -f/u Ortho recs re: possible surgical intervention, possible OR for
   exploration
   Mechanical Ventilation- for altered mental status as above
   -poss PSV trial today
   Acute renal failure- resolving with IVF
   Tachycardia- ECG c/w a flutter on [**6-1**]
   -rate control with metoprolol
   -echo pending today
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds held
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2184-06-06 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2184-6-5**] 11:31 AM
 OR SENT - At [**2184-6-5**] 07:45 PM
 OR RECEIVED - At [**2184-6-5**] 10:30 PM
   - repeat MRI read concerning for septic shoulder
   - repeat joint tap with 101k polys
   - taken to OR for right shoulder washout per orthopedics
 they did
   both arthroscopic and open
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-5**] 06:39 AM
   Vancomycin - [**2184-6-5**] 08:00 PM
   Meropenem - [**2184-6-6**] 02:00 AM
   Infusions:
   Propofol - 100 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2184-6-5**] 08:11 PM
   Midazolam (Versed) - [**2184-6-5**] 10:30 PM
   Vecuronium - [**2184-6-5**] 10:30 PM
   Fentanyl - [**2184-6-6**] 05:00 AM
   Lorazepam (Ativan) - [**2184-6-6**] 06:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-6**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 90 (74 - 101) bpm
   BP: 135/60(76) {101/57(68) - 193/93(118)} mmHg
   RR: 21 (19 - 28) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  3,772 mL
                                                                    980 mL
   PO:
             TF:
             164 mL
   IVF:
                                                                  3,592 mL
                                                                    686 mL
   Blood products:
   Total out:
                                                                  4,510 mL
                                                                  1,015 mL
   Urine:
                                                                  2,380 mL
                                                                    515 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                   -738 mL
                                                                    -35 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 477 (469 - 529) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 12 L/min
   Physical Examination
   General: Intubated and sedated, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, +ETT and OGT
   Neck: supple, JVP not elevated, no LAD
   Right Shoulder: bandaged, drains in place
   Lungs: Breath sounds diminished b/l w/ bronchial sounds at bases, no
   rales
   CV: Reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema. R
   shoulder. Very painful with movement
   Neuro: Opens eyes to command
   Labs / Radiology
   356 K/uL
   9.6 g/dL
   100 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.4 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   27.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   14.7
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   Plt
   293
   318
   332
   [**Telephone/Fax (3) 7658**]
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   0.7
   Glucose
   96
   136
   114
   179
   101
   100
   Other labs: PT / PTT / INR:12.3/22.2/1.0, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Imaging:
   Portable CXR:
   1. relatively proximally positioned endotracheal tube
   2. Left lower lobe collapse, consolidation
   Microbiology:
[**2184-6-5**] 8:41 pm JOINT FLUID     Site: SHOULDER      (R) SHOULDER.
   GRAM STAIN (Final [**2184-6-6**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   ECHO: IMPRESSION: Poor technical quality due to patient's body habitus.
   The inferior septum may be slightly hypokinetic. No significant
   valvular abnormality seen. Biatrial enlargement.
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of right shoulder joint.
   Septic shock/Septic Shoulder: Likely [**12-29**] to septic shoulder with
   component of pneumonia as well.  Presents in ARF with altered mental
   status, leukocytosis and bandemia.  Septic right shoulder and now s/p
   washout of shoulder joint.
   - continue vanc, meropenem for planned [**9-8**] day course for pneumonia.
   Will ultimately  need long term antibiotics (6+ weeks for septic
   shoulder but will attempt to tailor to cultures if possible)
   - f/u arthrocentesis culture
   - f/u ortho recs
   - Start fentanyl boluses prn for pain with ativan boluses prn
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Concern for head trauma
   given prior fall, but head CT without acute process. Does have h/o
   heavy EtOH, but now only drinks 2/7 nights per week according to wife;
   did seem to have better response to ativan than haldol. No h/o illicit
   drug use prior. Likely [**12-29**] polypharmacy given OSH dilaudid, stress dose
   steroids (now d/c
d).   Lyme serologies negative.  Required intubation
   for studies on [**2184-6-2**].
   - MRI head still pending
   - Propofol for sedation, ativan prn for comfort and agitation
   - Thiamine, folate, MVI
   - Erlichia serologies pending
   - treat shoulder infection as below.
   - appreciate curbside psych input
   - will attempt to wean vent and sedation as tolerated but will avoid
   extubation until possibility of repeat OR intervention is less likely
   Tachycardia: Atrial flutter v. atrial fib.  Now currently in sinus with
   PACs. Rate improved on sedation.
   - metoprolol 50 PO Q8 for rate control
   - Biatrial enlargement on TTE; holding on systemic anticoagulation for
   now
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. Now resolved.
   - f/u ehrlichia serology
   - will check triglycerides given significant propofol administration
   Hypertension:
   - Cont metoprolol
   - continue [**Last Name (un) **] and HCTZ as tolerated
   - Holding home clonidine given mental status
   Rash: Initially, was diffuse and erythematous. Currently improving.
   Concern for drug rash secondary to penicillins (although no documented
   history of drug allergies)
   - changed zosyn to meropenem
   - continue to monitor
   Anemia: Decreased Hct this AM
   - recheck pm Hct
   S/p adrenalectomy: Initially presented with shock, hyponatremia, and
   hyperkalemia. [**Last Name (un) 567**] stim was normal. Steroids discontinued.
   Acute renal failure: Cr down to 1.0 from peak of 3.1 at OSH on [**2184-5-30**]
   with improved UOP.  FENa 0.8 suggests prerenal etiology.
   - trend Cr
   Constipation: KUB concerning for cecal volvulus but not seen on CT
   abdomen.
   - Resolved with lots of stool
   - cont bowel regimen with senna, colace, lactulose, and suppository
   Hyponatremia: Resolved.
   Respiratory status: Advance ETT additional 2 cm and repeat CXR
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2184-6-6**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: Famotidine
   VAP:
   Comments:
   Communication:  Wife, [**Name (NI) 7538**] [**Telephone/Fax (1) 7539**] (H), [**Telephone/Fax (1) 7540**] (C)
   Code status: Full code
   Disposition:  ICU for now

2184-06-06 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   To OR yest for arthroscop/ open surgical wash-out of R shoulder. Had
   TTE yest as well.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-5**] 06:39 AM
   Vancomycin - [**2184-6-6**] 07:50 AM
   Meropenem - [**2184-6-6**] 07:50 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2184-6-5**] 10:30 PM
   Vecuronium - [**2184-6-5**] 10:30 PM
   Lorazepam (Ativan) - [**2184-6-6**] 07:50 AM
   Fentanyl - [**2184-6-6**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-6**] 07:51 AM
   Other medications:
   losartan, metoprolol, docusate, peridex, propofol, lactulose, vanco,
   MVI, thiamine, famotidine, heparin sc, senna, fentanyl prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-6**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 91 (74 - 103) bpm
   BP: 107/57(68) {101/57(68) - 193/93(118)} mmHg
   RR: 20 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  3,772 mL
                                                                  1,882 mL
   PO:
             TF:
             326 mL
   IVF:
                                                                  3,592 mL
                                                                  1,266 mL
   Blood products:
   Total out:
                                                                  4,510 mL
                                                                  1,495 mL
   Urine:
                                                                  2,380 mL
                                                                    995 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    500 mL
   Drains:
   Balance:
                                                                   -738 mL
                                                                    387 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 540 (469 - 540) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///23/
   Ve: 10.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+, R shoulder dressing w/ JP drain c/d/i
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   356 K/uL
   100 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.4 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   27.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   14.7
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   Plt
   293
   318
   332
   [**Telephone/Fax (3) 7658**]
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   0.7
   Glucose
   96
   136
   114
   179
   101
   100
   Other labs: PT / PTT / INR:12.3/22.2/1.0, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.5
   mg/dL
   Imaging: [**6-5**] Echo- dilated LA and RA, cLVH, mild inf septal
   hypokinesis
   Microbiology: [**6-5**] R shoulder aspirate- 100k wbcs, gm stain neg,
   culture pending
   Assessment and Plan
   63-year-old man with altered mental status. R shoulder septic
   arthritis. Intubated [**6-2**] pm for agitation and need for diagnostic
   testing
   R shoulder septic arthritis- pod 1 s/p OR washout of R shoulder
   -cx pending
   -broad ABX
   -f/u with Ortho re: need for repeat clean-out
   Encephalopathy / altered mental status- hx of heavy opiate use at OSH,
   perhaps some withdrawal or related agitation related to pain. CT head
   negative. Very agitated despite heavy doses of antipsychotics.
   Intubated [**6-2**] pm for airway protection
   -currently sedated with propofol gtt and comfortable, responded well to
   Ativan bolus
   -thiamine and folate
   -f/u Erhlichia given constellation of AMS + transaminitis + arthralgia
   though this is much much less likely
   -MRI brain today to assess for CVA vs infection not picked up by CT.
   Nosocomial pneumonia-
   -vanco + meropenem. prolonged course due to septic shoulder as above
   Acute respiratory failure - mechanical ventilation for altered mental
   status as above
   -stable on PSV
   Tachycardia- ECG c/w a flutter on [**6-1**]
   -rate control with metoprolol
   -echo pending today
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2184-6-6**] 12:00 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, critically ill
   Total time spent: 35 minutes

2184-06-07 06:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2184-6-6**] 01:30 PM
   brain
   - MRI Brain - ***Wet Read*** no stroke or vascular occlusion.
   Unremarkable study.
   - Ortho: no anticoagulation, pain management per MICU team
   - Triglycerides of 999 - switched from propafol to fent/versed and
   overnight required high doses of both for sedation
   - Had to give zyprexa x1 and seroquel x1 for agitation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-5**] 06:39 AM
   Vancomycin - [**2184-6-6**] 07:50 AM
   Meropenem - [**2184-6-6**] 08:08 PM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2184-6-6**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-6**] 08:06 PM
   Fentanyl - [**2184-6-6**] 10:20 PM
   Midazolam (Versed) - [**2184-6-6**] 10:21 PM
   Famotidine (Pepcid) - [**2184-6-7**] 05:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-7**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 95 (85 - 115) bpm
   BP: 168/85(106) {107/53(66) - 190/92(113)} mmHg
   RR: 10 (10 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126.2 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  3,303 mL
                                                                    514 mL
   PO:
             TF:
                                                                    795 mL
                                                                    313 mL
   IVF:
                                                                  1,818 mL
                                                                    201 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    340 mL
   Urine:
                                                                  1,925 mL
                                                                    340 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
                                                                     25 mL
   Balance:
                                                                    253 mL
                                                                    174 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 614 (506 - 818) mL
   PS : 10 cmH2O
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 7.6 L/min
   Physical Examination
   General: Intubated and sedated, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, +ETT and OGT
   Neck: supple, JVP not elevated, no LAD
   Right Shoulder: bandaged, drains in place
   Lungs: Breath sounds diminished b/l w/ bronchial sounds at bases, no
   rales
   CV: Reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema. R
   shoulder. Very painful with movement
   Neuro: Opens eyes to command
   Labs / Radiology
   334 K/uL
   8.7 g/dL
   109 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.3 mEq/L
   10 mg/dL
   107 mEq/L
   138 mEq/L
   27.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
                             [**2184-6-7**]  05:00 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   14.7
   11.1
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   27.1
   Plt
   293
   318
   332
   [**Telephone/Fax (3) 7658**]
   334
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   0.7
   0.6
   Glucose
   96
   136
   114
   179
   101
   100
   109
   Other labs: PT / PTT / INR:11.5/21.8/1.0, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
[**2184-6-5**] 8:41 pm JOINT FLUID     Site: SHOULDER      (R) SHOULDER.
   GRAM STAIN (Final [**2184-6-6**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NO GROWTH.
[**2184-6-5**] 12:13 pm JOINT FLUID      Source: Shoulder.
   GRAM STAIN (Final [**2184-6-5**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
      FLUID CULTURE (Preliminary):    NO GROWTH.
   MRI Brain: The head MRA demonstrates normal flow signal within the
   arteries of anterior and posterior circulation. Distal left vertebral
   artery ends in posterior- inferior cerebellar artery, a normal
   variation. IMPRESSION: Normal MRA of the head.
   Assessment and Plan
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of right shoulder joint.
   Septic shock/Septic Shoulder/HAP: Likely [**12-29**] to septic shoulder with
   component of pneumonia as well.  Presents in ARF with altered mental
   status, leukocytosis and bandemia.  Septic right shoulder and now s/p
   washout of shoulder joint.
   - continue vanc, meropenem was planned for [**9-8**] day course for HAP.
   Will ultimately need long term antibiotics (6+ weeks for septic
   shoulder but will attempt to tailor to cultures if possible)
   - f/u arthrocentesis culture
   - f/u ortho recs, esp re: need to take back to OR
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Concern for head trauma
   given prior fall, but head CT without acute process. Does have h/o
   heavy EtOH, but now only drinks 2/7 nights per week according to wife;
   did seem to have better response to ativan than haldol. No h/o illicit
   drug use prior. Likely [**12-29**] polypharmacy given OSH dilaudid, stress dose
   steroids (now d/c
d).   Lyme serologies negative.  Required intubation
   for studies on [**2184-6-2**]. Increased agitation likely polypharmacy; had
   been doing well on propofol but transitioned to fent/versed for
   hypertriglyceridemia. Question of hyperesthesia on fentanyl.
   - confirm whether ortho will need to take back to OR
   - for short-term, restart propofol with half-dose versed
   - d/c fentanyl; dilaudid boluses prn for pain
   - Thiamine, folate, MVI
   - Erlichia serologies pending
   - treat shoulder infection as above
   - attempt to wean sedation and extubate today if possible
   Tachycardia: Atrial flutter v. atrial fib.  Now currently in sinus with
   PACs. Rate improved on sedation.
   - metoprolol 50 PO Q8 for rate control
   - Biatrial enlargement on TTE; holding on systemic anticoagulation for
   now
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. Now resolved.
   - f/u ehrlichia serology
   - switched from propafol to fent/versed due to high trigs
   Hypertension:
   - Cont metoprolol
   - continue [**Last Name (un) **] and HCTZ as tolerated
   - Holding home clonidine given mental status
   Rash: Initially, was diffuse and erythematous. Currently improving.
   Concern for drug rash secondary to penicillins (although no documented
   history of drug allergies)
   - changed zosyn to meropenem
   - continue to monitor
   Anemia: Stable
   - monitor Hct
   S/p adrenalectomy: Initially presented with shock, hyponatremia, and
   hyperkalemia. [**Last Name (un) 567**] stim was normal. Steroids discontinued.
   Acute renal failure: Cr down to 1.0 from peak of 3.1 at OSH on [**2184-5-30**]
   with improved UOP.  FENa 0.8 suggests prerenal etiology.
   - trend Cr
   Constipation: KUB concerning for cecal volvulus but not seen on CT
   abdomen. Resolved with lots of stool
   - cont bowel regimen with senna, colace, lactulose, and suppository
   Hyponatremia: Resolved.
   ICU Care
   Nutrition: tube feeds on hold for possible extubation
   Replete with Fiber (Full) - [**2184-6-6**] 04:17 PM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: Boots, heparin SQ
   Stress ulcer:  H2 blocker
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2184-06-07 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Sepsis, Rt Shoulder infection
   24 Hour Events:
   switched to versed + fentanyl for hypertriglyceridemia on propofol gtt.
   febrile to 101.4 this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2184-6-5**] 06:39 AM
   Vancomycin - [**2184-6-6**] 07:50 AM
   Meropenem - [**2184-6-7**] 08:38 AM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Fentanyl (Concentrate) - 200 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2184-6-7**] 05:58 AM
   Midazolam (Versed) - [**2184-6-7**] 08:00 AM
   Fentanyl - [**2184-6-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-7**] 08:39 AM
   Other medications:
   meropenem, losartan, lopressor, colace, peridex, lactulose, vanco iv,
   MVI, folate, thiamine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-7**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 103 (85 - 120) bpm
   BP: 143/81(95) {112/65(76) - 191/96(122)} mmHg
   RR: 9 (9 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 125 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  3,303 mL
                                                                    677 mL
   PO:
             TF:
                                                                    795 mL
                                                                    204 mL
   IVF:
                                                                  1,818 mL
                                                                    413 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    740 mL
   Urine:
                                                                  1,925 mL
                                                                    740 mL
   NG:
   Stool:
                                                                  1,100 mL
   Drains:
                                                                     25 mL
   Balance:
                                                                    253 mL
                                                                    -63 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 697 (506 - 818) mL
   PS : 10 cmH2O
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 24
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///25/
   Ve: 7.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Non
   -purposeful, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   334 K/uL
   109 mg/dL
   0.6 mg/dL
   25 mEq/L
   4.3 mEq/L
   10 mg/dL
   107 mEq/L
   138 mEq/L
   27.1 %
   11.1 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
                             [**2184-6-7**]  05:00 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   14.7
   11.1
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   27.1
   Plt
   293
   318
   332
   [**Telephone/Fax (3) 7658**]
   334
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   0.7
   0.6
   Glucose
   96
   136
   114
   179
   101
   100
   109
   Other labs: PT / PTT / INR:11.5/21.8/1.0, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Imaging: [**6-7**] MRI brain- unremarkable study (prelim read)
   Microbiology: [**6-5**] Joint fluid- cx pending
   Assessment and Plan
   63-year-old man with altered mental status. R shoulder septic
   arthritis. Intubated [**6-2**] pm for agitation and need for diagnostic
   testing
   R shoulder septic arthritis- pod 2 s/p OR washout of R shoulder
   -cx pending
   -broad ABX on vanco + meropenem
   -f/u with Ortho re: need for repeat clean-out
   Encephalopathy / altered mental status- hx of heavy opiate use at OSH,
   perhaps some withdrawal or related agitation related to pain. CT head
   negative. Very agitated despite heavy doses of antipsychotics.
   Intubated [**6-2**] pm for airway protection
   -currently w/ suboptimal sedation on versed and fentanyl; will resume
   low-dose propofol w/ goal of extubation in the next 24h and use
   Dilaudid for pain
   -f/u Erhlichia given constellation of AMS + transaminitis + arthralgia
   though this is much much less likely
   -MRI brain today to assess for CVA vs infection not picked up by CT.
   -thiamine and folate
   Nosocomial pneumonia-
   -vanco + meropenem. prolonged course due to septic shoulder as above
   Acute respiratory failure - mechanical ventilation for altered mental
   status as above
   -stable on PSV
   Tachycardia- ECG c/w a flutter on [**6-1**], has been in sinus for the past
   4d or so.
   -rate control with metoprolol
   -echo with biatrial enlargement and poss small area of HK
   -will need to decide about anticoagulation
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: tube feeds held today
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2184-6-1**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2184-06-08 06:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2184-6-7**] 03:25 PM
 PICC LINE - STOP [**2184-6-7**] 08:19 PM
 PICC LINE - START [**2184-6-7**] 10:33 PM
   IV RN paged to bedside after pt pulled his PICC line. IV RN confirmed
   this IV now a Mid-line and adequate for tonight, but will need to be
   replaced in the morning.
 FEVER - 101.4
F - [**2184-6-7**] 10:00 AM
   - Persistently agitated despite high doses of fentanyl/versed.
   Restarted propofol and weaned down versed. Fentanyl discontinued
   (?hyperesthesia) and switched to dilaudid prn pain. Mental status
   improved.
   - Spiked fever to 101.4. Pancultured.
   - Sedation turned off and pt extubated as no plan for OR per Ortho.
   - Hypertensive with SBP 180s-200s off sedation. Metoprolol increased to
   20mg q4h, and added hydral 20mg q6h.
   - Pt pulled PICC line. Seen by IV RN and converted to midline. PIV x 1
   placed.
   - Overnight, pt agitated. Given ativan 2mg IV x 2 with some improvement
   in agitation although still with confused speech.
   - Spiked another fever to 100.5
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-7**] 10:35 PM
   Meropenem - [**2184-6-8**] 01:49 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2184-6-7**] 08:00 AM
   Midazolam (Versed) - [**2184-6-7**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-7**] 08:40 PM
   Lorazepam (Ativan) - [**2184-6-8**] 03:30 AM
   Hydromorphone (Dilaudid) - [**2184-6-8**] 03:30 AM
   Metoprolol - [**2184-6-8**] 03:58 AM
   Hydralazine - [**2184-6-8**] 04:26 AM
   Famotidine (Pepcid) - [**2184-6-8**] 05:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-8**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.5
   HR: 116 (87 - 124) bpm
   BP: 179/82(102) {118/67(79) - 191/117(134)} mmHg
   RR: 15 (9 - 30) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 125 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  1,311 mL
                                                                    362 mL
   PO:
             TF:
                                                                    204 mL
   IVF:
                                                                  1,047 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                  1,100 mL
   Urine:
                                                                  2,040 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                   -759 mL
                                                                   -738 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 590 (590 - 697) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 95%
   ABG: ///19/
   Ve: 6.5 L/min
   Physical Examination
   General: Intubated and sedated, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear, +ETT and OGT
   Neck: supple, JVP not elevated, no LAD
   Right Shoulder: bandaged, drains in place
   Lungs: Breath sounds diminished b/l w/ bronchial sounds at bases, no
   rales
   CV: Reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema. R
   shoulder. Very painful with movement
   Neuro: Opens eyes to command
   Labs / Radiology
   338 K/uL
   9.5 g/dL
   98 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   29.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
                             [**2184-6-7**]  05:00 AM
                             [**2184-6-8**]  04:05 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   14.7
   11.1
   14.7
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   27.1
   29.7
   Plt
   293
   318
   332
   [**Telephone/Fax (3) 7658**]
   334
   338
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   0.7
   0.6
   0.6
   Glucose
   96
   136
   114
   179
   101
   100
   109
   98
   Other: Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6 mg/dL
----                          ------              ---------------------
A. PHAGOCYTOPHILUM IGG        <1:64
A. PHAGOCYTOPHILUM IGM        <1:20
INTERPRETATION                SEE NOTE
ANTIBODY NOT DETECTED
REFERENCE RANGE  IGG  <1:64
                 IGM  <1:20
   Color
   Yellow
   Appear
   Hazy
   SpecGr
   1.022
   pH
   5.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Neg
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   7
   WBC
   8
   Bact
   Few
   Yeast
   None
   Epi
   <1
   Amorph
   Rare
   Other Urine Counts. CastGr: 4 Mucous: Rare
[**2184-6-5**] 8:41 pm JOINT FLUID     Site: SHOULDER      (R) SHOULDER.
   GRAM STAIN (Final [**2184-6-6**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NO GROWTH.
[**2184-6-5**] 12:13 pm JOINT FLUID      Source: Shoulder.
   GRAM STAIN (Final [**2184-6-5**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Preliminary):    NO GROWTH.
   [**2184-6-7**] Bcx pending x 2
   [**2184-6-7**] Ucx pending
   Assessment and Plan
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of right shoulder joint.
   Septic shock/Septic Shoulder/HAP: Likely [**12-29**] to septic shoulder with
   component of pneumonia as well.  Presents in ARF with altered mental
   status, leukocytosis and bandemia.  Septic right shoulder and now s/p
   washout of shoulder joint.
   - continue vanc, meropenem was planned for [**9-8**] day course for HAP.
   Will ultimately need long term antibiotics (6+ weeks for septic
   shoulder but will attempt to tailor to cultures if possible)
   - f/u arthrocentesis culture
   - f/u ortho recs
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Concern for head trauma
   given prior fall, but head CT without acute process. Does have h/o
   heavy EtOH, but now only drinks 2/7 nights per week according to wife;
   did seem to have better response to ativan than haldol. No h/o illicit
   drug use prior. Likely [**12-29**] polypharmacy given OSH dilaudid, stress dose
   steroids (now d/c
d).   Lyme serologies negative.  Required intubation
   for studies on [**2184-6-2**]. Increased agitation likely polypharmacy; had
   been doing well on propofol but transitioned to fent/versed for
   hypertriglyceridemia. Question of hyperesthesia on fentanyl.
   - confirm whether ortho will need to take back to OR
   - for short-term, restart propofol with half-dose versed
   - d/c fentanyl; dilaudid boluses prn for pain
   - Thiamine, folate, MVI
   - Erlichia serologies pending
   - treat shoulder infection as above
   - attempt to wean sedation and extubate today if possible
   Tachycardia: Atrial flutter v. atrial fib.  Now currently in sinus with
   PACs. Rate improved on sedation.
   - metoprolol 50 PO Q8 for rate control
   - Biatrial enlargement on TTE; holding on systemic anticoagulation for
   now
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. Now resolved.
   - f/u ehrlichia serology
   - switched from propafol to fent/versed due to high trigs
   Hypertension:
   - Cont metoprolol
   - continue [**Last Name (un) **] and HCTZ as tolerated
   - Holding home clonidine given mental status
   Rash: Initially, was diffuse and erythematous. Currently improving.
   Concern for drug rash secondary to penicillins (although no documented
   history of drug allergies)
   - changed zosyn to meropenem
   - continue to monitor
   Anemia: Stable
   - monitor Hct
   S/p adrenalectomy: Initially presented with shock, hyponatremia, and
   hyperkalemia. [**Last Name (un) 567**] stim was normal. Steroids discontinued.
   Acute renal failure: Cr down to 1.0 from peak of 3.1 at OSH on [**2184-5-30**]
   with improved UOP.  FENa 0.8 suggests prerenal etiology.
   - trend Cr
   Constipation: KUB concerning for cecal volvulus but not seen on CT
   abdomen. Resolved with lots of stool
   - cont bowel regimen with senna, colace, lactulose, and suppository
   Hyponatremia: Resolved.
   ICU Care
   Nutrition: Speech and swallow c/s
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-7**] 09:35 PM
   PICC Line - [**2184-6-7**] 10:33 PM
   Prophylaxis:
   DVT: Boots, heparin SQ
   Stress ulcer: H2 blocker
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2184-06-08 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Left Shoulder Septic arthritis
   24 Hour Events:
   febrile yest am to 101.4. Extubated yest pm. PICC line pulled out
   halfway by pt last night. used as a midline since then. PICC replaced
   this AM. In afib w/ rvr this am.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-8**] 08:14 AM
   Meropenem - [**2184-6-8**] 09:22 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2184-6-8**] 03:30 AM
   Hydralazine - [**2184-6-8**] 04:26 AM
   Famotidine (Pepcid) - [**2184-6-8**] 05:34 AM
   Metoprolol - [**2184-6-8**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2184-6-8**] 08:15 AM
   Hydromorphone (Dilaudid) - [**2184-6-8**] 08:15 AM
   Other medications:
   losartan, colace, MVI, folate, thiamine, heparin, senna, metoprolol 20
   q4, hydralazine 20 q6, dilaudid prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-8**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.4
C (99.3
   HR: 105 (87 - 124) bpm
   BP: 178/85(108) {118/67(79) - 191/117(134)} mmHg
   RR: 14 (10 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 125 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  1,311 mL
                                                                    845 mL
   PO:
             100 mL
   TF:
                                                                    204 mL
   IVF:
                                                                  1,047 mL
                                                                    745 mL
   Blood products:
   Total out:
                                                                  2,070 mL
                                                                  1,340 mL
   Urine:
                                                                  2,040 mL
                                                                  1,340 mL
   NG:
   Stool:
   Drains:
                                                                     30 mL
   Balance:
                                                                   -759 mL
                                                                   -495 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 590 (590 - 590) mL
   PS : 10 cmH2O
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///19/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   338 K/uL
   98 mg/dL
   0.6 mg/dL
   19 mEq/L
   4.3 mEq/L
   8 mg/dL
   108 mEq/L
   139 mEq/L
   29.7 %
   14.7 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
                             [**2184-6-7**]  05:00 AM
                             [**2184-6-8**]  04:05 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   14.7
   11.1
   14.7
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   27.1
   29.7
   Plt
   293
   318
   332
   [**Telephone/Fax (3) 7658**]
   334
   338
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   0.7
   0.6
   0.6
   Glucose
   96
   136
   114
   179
   101
   100
   109
   98
   Other labs: PT / PTT / INR:11.5/21.8/1.0, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:38/31, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.6
   mg/dL
   Imaging: [**6-8**] CXR- clearing LLL infiltrate
   Microbiology: repeat joint cultures- pending
   Assessment and Plan
   63-year-old man with altered mental status. R shoulder septic
   arthritis. Intubated [**6-2**] pm for agitation and need for diagnostic
   testing
    R shoulder septic arthritis- pod 3 s/p OR washout of R shoulder
   -cx pending
   -ABX on vanco
   -f/u with Ortho re: need for repeat clean-out
   Encephalopathy / altered mental status- hx of heavy opiate use at OSH,
   perhaps some withdrawal or related agitation related to pain. CT head
   negative. Very agitated despite heavy doses of antipsychotics.
   Intubated [**6-2**] pm for airway protection
   -Dilaudid prn, Ativan prn
   -MRI brain unremarkable
   -thiamine and folate
   Nosocomial pneumonia- vanco + meropenem, day [**6-4**] then will dc
   meropenem.
   Tachycardia- ECG c/w a flutter on [**6-1**], in rvr today
   -rate control with dilt gtt
   -echo with biatrial enlargement and poss small area of HK
   -will need to decide about anticoagulation. Needs IVF first in bolus ,
   then rate control with Lopressor if Diltiazem has been maximized
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2184-6-7**] 09:35 PM
   PICC Line - [**2184-6-7**] 10:33 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2184-06-09 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - heart rate elevated in 150s, rapid atrial flutter
   - started on diltiazem drip
   - received boluses of metoprolol
   - received 3 liters IV fluid boluses with improvement in HR to the 100s
   but diltitazem discontinued and he increased again to 150s.  Received
   additional diltiazem and metoprolol and broke to sinus rhythm.
   - cleared by speech and swallow and started on heart healthy diet
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2184-6-8**] 08:24 PM
   Meropenem - [**2184-6-9**] 02:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Heparin Sodium - 2,400 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2184-6-8**] 01:50 PM
   Heparin Sodium (Prophylaxis) - [**2184-6-8**] 03:00 PM
   Diltiazem - [**2184-6-8**] 09:44 PM
   Heparin Sodium - [**2184-6-9**] 02:25 AM
   Metoprolol - [**2184-6-9**] 05:35 AM
   Famotidine (Pepcid) - [**2184-6-9**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-9**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.1
   HR: 90 (90 - 157) bpm
   BP: 138/66(84) {126/62(77) - 178/100(118)} mmHg
   RR: 13 (7 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 125 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  5,215 mL
                                                                    449 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  4,615 mL
                                                                    449 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                    440 mL
   Urine:
                                                                  3,550 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,665 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General:  Alert, no acute distress, answers questions slowly, not
   oriented
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Right Shoulder: bandaged, drains in place
   Lungs: Breath sounds diminished b/l w/ bronchial sounds at bases, no
   rales
   CV: Reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema. R
   shoulder. Very painful with movement
   Labs / Radiology
   330 K/uL
   9.1 g/dL
   123 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   8 mg/dL
   106 mEq/L
   138 mEq/L
   27.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
                             [**2184-6-7**]  05:00 AM
                             [**2184-6-8**]  04:05 AM
                             [**2184-6-9**]  04:08 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   14.7
   11.1
   14.7
   12.1
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   27.1
   29.7
   27.9
   Plt
   293
   318
   332
   [**Telephone/Fax (3) 7658**]
   [**Telephone/Fax (3) 7727**]
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   0.7
   0.6
   0.6
   0.6
   Glucose
   96
   136
   114
   179
   101
   100
   109
   98
   123
   Other labs: PT / PTT / INR:13.3/93.3/1.1, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:107/209, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.0
   mg/dL
   Microbiology:
[**2184-6-5**] 8:41 pm JOINT FLUID     Site: SHOULDER      (R) SHOULDER.
                            **FINAL REPORT [**2184-6-8**]**
   GRAM STAIN (Final [**2184-6-6**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      NO MICROORGANISMS SEEN.
   FLUID CULTURE (Final [**2184-6-8**]):    NO GROWTH.
   Blood and urine cultures [**2184-6-7**]
 no growth to date
   Imaging:
   Portable CXR [**2184-6-8**] (line placement):
   Satisfactory position of the left-sided PICC line with the tip in
   the lower SVC. Interval improvement in degree of atelectasis in the
   left
   lower lobe. Mild cardiomegaly with no overt evidence of pulmonary
   edema.
   Assessment and Plan
 ARTHRITIS, SEPTIC (JOINT INFECTION, SEPTIC JOINT, INCLUDING KNEE,
   HIP, ANKLE, ETC.)
 HYPERTENSION, BENIGN
 IMPAIRED SKIN INTEGRITY
 CONSTIPATION (OBSTIPATION, FOS)
 ATRIAL FLUTTER (AFLUTTER)
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of right shoulder joint.
   Atrial Fibrillation:  Rapid rates throughout the day, unclear trigger.
   Biatrial enlargement on TTE.  He was started on dilt gtt and was given
   3 L of fluid on top of frequent doses of metoprolol.
   - Transition metoprolol to PO
   - continue diltiazem drip for now
   - continue therapeutic heparin
   Septic shock/Septic Shoulder/HAP: Likely [**12-29**] to septic shoulder with
   component of pneumonia as well.  Presents in ARF with altered mental
   status, leukocytosis and bandemia.  Septic right shoulder and now s/p
   washout of shoulder joint.
   - continue vanc, meropenem was planned for 10 day course for HAP (now
   day 8). Will ultimately need long term antibiotics (6+ weeks of
   vancomycin for septic shoulder but will attempt to tailor to cultures
   if possible)
   - f/u arthrocentesis culture
   - f/u ortho recs
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Concern for head trauma
   given prior fall, but head CT and brain MRI without acute process or
   stroke. Does have h/o heavy EtOH, but now only drinks 2/7 nights per
   week according to wife; did seem to have better response to ativan than
   haldol. No h/o illicit drug use prior. Likely [**12-29**] polypharmacy given
   OSH dilaudid, stress dose steroids (now d/c
d).   Lyme serologies
   negative.  Required intubation for studies on [**2184-6-2**]. Increased
   agitation likely polypharmacy; had been doing well on propofol but
   transitioned to fent/versed for hypertriglyceridemia. He is now
   extubated and mental status is improving
   - Continue dilaudid boluses prn for pain
   - Thiamine, folate, MVI
   - treat shoulder infection as above
   - Ativan PRN for agitation
   Hypertension:
   - Diltiazem drip
   - continue [**Last Name (un) **] and HCTZ as tolerated
   - Holding home clonidine given mental status
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. Now resolved.
   Rash: Initially, was diffuse and erythematous. Currently improving.
   Concern for drug rash secondary to penicillins (although no documented
   history of drug allergies)
   - changed zosyn to meropenem
   - continue to monitor
   Anemia: Stable
   - monitor Hct
   S/p adrenalectomy: Initially presented with shock, hyponatremia, and
   hyperkalemia. [**Last Name (un) 567**] stim was normal. Steroids discontinued.
   Acute renal failure: Cr down to 1.0 from peak of 3.1 at OSH on [**2184-5-30**]
   with improved UOP.  FENa 0.8 suggests prerenal etiology.
   - trend Cr
   Constipation: KUB concerning for cecal volvulus but not seen on CT
   abdomen. Resolved with lots of stool
   - cont bowel regimen with senna, colace, lactulose, and suppository
   Hyponatremia: Resolved.
   ICU Care
   Nutrition: Passed speech and swallow so will start low sodium diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-7**] 09:35 PM
   PICC Line - [**2184-6-7**] 10:33 PM
   Prophylaxis:
   DVT: Boots, heparin SQ
   Stress ulcer: H2 blocker
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2184-06-09 11:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  Right shoulder septic arthritis
   24 Hour Events:
   converted to sinus rhythm overnight after IVF repletion
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2184-6-9**] 02:00 AM
   Vancomycin - [**2184-6-9**] 08:00 AM
   Infusions:
   Diltiazem - 5 mg/hour
   Heparin Sodium - 2,400 units/hour
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2184-6-8**] 01:50 PM
   Heparin Sodium (Prophylaxis) - [**2184-6-8**] 03:00 PM
   Diltiazem - [**2184-6-8**] 09:44 PM
   Heparin Sodium - [**2184-6-9**] 02:25 AM
   Metoprolol - [**2184-6-9**] 05:35 AM
   Famotidine (Pepcid) - [**2184-6-9**] 06:00 AM
   Other medications:
   Senna, thiamine, MVI, folate, vanco IV, losartan, diltiazem gtt,
   heparin gtt, lopressor, Colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-9**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.3
   HR: 104 (90 - 156) bpm
   BP: 146/68(89) {126/62(77) - 162/98(118)} mmHg
   RR: 17 (7 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 126 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  5,215 mL
                                                                    904 mL
   PO:
                                                                    600 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  4,615 mL
                                                                    804 mL
   Blood products:
   Total out:
                                                                  3,550 mL
                                                                    600 mL
   Urine:
                                                                  3,550 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,665 mL
                                                                    304 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: R shoulder pain w/ active and passive motion
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): name place and time, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   9.1 g/dL
   330 K/uL
   123 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.8 mEq/L
   8 mg/dL
   106 mEq/L
   138 mEq/L
   27.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2184-6-1**]  02:44 AM
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
                             [**2184-6-7**]  05:00 AM
                             [**2184-6-8**]  04:05 AM
                             [**2184-6-9**]  04:08 AM
   WBC
   15.9
   21.9
   11.6
   12.2
   14.2
   14.7
   11.1
   14.7
   12.1
   Hct
   28.9
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   27.1
   29.7
   27.9
   Plt
   293
   318
   332
   [**Telephone/Fax (3) 7658**]
   [**Telephone/Fax (3) 7727**]
   Cr
   2.3
   1.4
   1.4
   1.0
   0.8
   0.7
   0.6
   0.6
   0.6
   Glucose
   96
   136
   114
   179
   101
   100
   109
   98
   123
   Other labs: PT / PTT / INR:13.3/75.3/1.1, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:107/209, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:7.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.0
   mg/dL
   Microbiology: joint fluid cx- pending
   Assessment and Plan
   63-year-old man with altered mental status. R shoulder septic
   arthritis. Intubated [**Date range (1) 7734**] for agitation.
    R shoulder septic arthritis- pod 4 s/p OR washout of R shoulder
   -cx pending
   -ABX on vanco, presuming a minimum of 6wks of therapy, may need ID eval
   prior to dc.
   -PT consult
   Encephalopathy / altered mental status- resolved
   -can dc thiamine and folate, cont MVI
   -minimize polypharmacy, prn Ativan for severe agitation and Dilaudid
   for severe pain
   Nosocomial pneumonia- completed treatment course
   -oob freqeuntly, incentive spirometry
   Tachycardia- ECG c/w a flutter on [**6-1**] and again [**6-8**], likely sec to
   hypovolemia
   -metop 75 qid and titrate off dilt gtt
   -transition heparin gtt to coumadin
   -echo with biatrial enlargement and poss small area of HK
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2184-6-7**] 09:35 PM
   PICC Line - [**2184-6-7**] 10:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: Not indicated
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2184-06-10 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Trazodone written for sleep
   - changed to PO metoprolol and dilaudid
   - Ortho pulled drains without further input
   - PT consult ordered
   - Dilt gtt weaned off
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2184-6-9**] 02:00 AM
   Vancomycin - [**2184-6-9**] 07:46 PM
   Infusions:
   Heparin Sodium - 2,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-10**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 89 (84 - 110) bpm
   BP: 166/75(95) {123/63(80) - 166/104(111)} mmHg
   RR: 16 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  2,175 mL
                                                                    317 mL
   PO:
                                                                    740 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,435 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  1,763 mL
                                                                    770 mL
   Urine:
                                                                  1,763 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    412 mL
                                                                   -453 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General:  AAO x 3 , NAD, appropriate
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Right Shoulder: bandaged, drains in place
   Lungs: Breath sounds diminished b/l w/ bronchial sounds at bases, no
   rales
   CV: Reg rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  surgical incision scar, soft, non-tender, moderately
   distended, bowel sounds present, no rebound tenderness or guarding, no
   organomegaly
   GU: foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis, 2+ edema.
   Pain on passive movement of R shoulder improving, still with pain
   limiting active movement.
   Labs / Radiology
   319 K/uL
   8.3 g/dL
   132 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.4 mEq/L
   9 mg/dL
   111 mEq/L
   140 mEq/L
   26.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
                             [**2184-6-7**]  05:00 AM
                             [**2184-6-8**]  04:05 AM
                             [**2184-6-9**]  04:08 AM
                             [**2184-6-10**]  03:28 AM
   WBC
   21.9
   11.6
   12.2
   14.2
   14.7
   11.1
   14.7
   12.1
   10.6
   Hct
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   27.1
   29.7
   27.9
   26.1
   Plt
   [**Telephone/Fax (3) 7744**]82
   356
   334
   338
   330
   319
   Cr
   1.4
   1.4
   1.0
   0.8
   0.7
   0.6
   0.6
   0.6
   0.8
   Glucose
   136
   114
   179
   101
   100
   109
   98
   123
   132
   Other labs: PT / PTT / INR:14.5/85.1/1.3, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:107/209, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   63 yo man with hx of ETOH abuse, [**Hospital 1605**] transfered from OSH for septic
   shock with likely source of right shoulder joint.
   Atrial Fibrillation:  Rapid rates throughout the day, unclear trigger.
   Biatrial enlargement on TTE.  He was started on dilt gtt and was given
   3 L of fluid on top of frequent doses of metoprolol.
   - transition metoprolol to 75mg po qid, titrate prn
   - wean off diltiazem drip
   - continue therapeutic heparin
   Septic shock/Septic Shoulder/HAP: Likely [**12-29**] to septic shoulder with
   component of pneumonia as well.  Presents in ARF with altered mental
   status, leukocytosis and bandemia.  Septic right shoulder and now s/p
   washout of shoulder joint with no growth on culture. Exam improving.
   - continue vanc, meropenem was planned for 10 day course for HAP; will
   ultimately need long term antibiotics (6+ weeks of vancomycin for
   septic shoulder but will attempt to tailor to cultures if possible)
   - f/u ortho recs
   - PT consult
   Altered Mental Status: Last mentally cleared approx [**5-25**] while at OSH,
   prior to initiation of dilaudid and flexeril. Concern for head trauma
   given prior fall, but head CT and brain MRI without acute process or
   stroke. Does have h/o heavy EtOH, but now only drinks 2/7 nights per
   week according to wife; did seem to have better response to ativan than
   haldol. No h/o illicit drug use prior. Likely [**12-29**] polypharmacy given
   OSH dilaudid, stress dose steroids (now d/c
d).   Lyme serologies
   negative.  Required intubation for studies on [**2184-6-2**]. Increased
   agitation likely polypharmacy; had been doing well on propofol but
   transitioned to fent/versed for hypertriglyceridemia. He is now
   extubated and mental status is improving.
   - continue dilaudid boluses prn for pain
   - treat shoulder infection as above
   - minimize polypharmacy: d/c thiamine, folate, MVI, H2 blocker
   - ativan PRN for agitation
   - trazodone prn for insomnia
   Hypertension:
   - increasing metoprolol and weaning dilt gtt
   - continue [**Last Name (un) **]
   - restart HCTZ as tolerated
   - holding home clonidine given mental status
   Transaminitis: No pain on palpation and RUQ U/S from OSH without
   evidence of cholecystitis. [**Month (only) 8**] be [**12-29**] EtOH use. Now resolved.
   Rash: Initially, was diffuse and erythematous. Likely drug rash to PCN
   although no documented prior history. Currently improving off Zosyn.
   Anemia: Stable.
   - monitor Hct daily
   S/p adrenalectomy: Initially presented with shock, hyponatremia, and
   hyperkalemia. [**Last Name (un) 567**] stim was normal. Steroids discontinued.
   Constipation: KUB concerning for cecal volvulus but not seen on CT
   abdomen. Resolved
   - cont bowel regimen with senna, colace, lactulose, and suppository
   ICU Care
   Nutrition: regular cardiac diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2184-6-7**] 09:35 PM
   PICC Line - [**2184-6-7**] 10:33 PM
   Prophylaxis:
   DVT: boots, therapeutic heparin
   Stress ulcer: not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to floor

2184-06-10 10:52:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Right shoulder septic arthritis
   24 Hour Events:
   R shoulder drains pulled yest. Weaned off diltiazem gtt. [**Name8 (MD) **] RN
   frequent loose stools in the last few days.
   Allergies:
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Last dose of Antibiotics:
   Meropenem - [**2184-6-9**] 02:00 AM
   Vancomycin - [**2184-6-10**] 08:18 AM
   Infusions:
   Heparin Sodium - 2,400 units/hour
   Other ICU medications:
   Other medications:
   MVI, Vanco IV, Cozaar, Heparin gtt, Colace, Metoprolol 75 qid, Coumadin
   5
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-6-10**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.5
C (97.7
   HR: 90 (84 - 110) bpm
   BP: 156/85(100) {123/63(80) - 166/104(111)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 126 kg (admission): 125 kg
   Height: 71 Inch
             Total In:
                                                                  2,175 mL
                                                                    677 mL
   PO:
                                                                    740 mL
                                                                    130 mL
   TF:
   IVF:
                                                                  1,435 mL
                                                                    547 mL
   Blood products:
   Total out:
                                                                  1,763 mL
                                                                    910 mL
   Urine:
                                                                  1,763 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    412 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: B bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): name place and time, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   319 K/uL
   132 mg/dL
   0.8 mg/dL
   20 mEq/L
   4.4 mEq/L
   9 mg/dL
   111 mEq/L
   140 mEq/L
   26.1 %
   10.6 K/uL
        [image002.jpg]
                             [**2184-6-2**]  02:51 AM
                             [**2184-6-3**]  02:32 AM
                             [**2184-6-3**]  01:51 PM
                             [**2184-6-4**]  04:07 AM
                             [**2184-6-5**]  03:32 AM
                             [**2184-6-6**]  01:00 AM
                             [**2184-6-7**]  05:00 AM
                             [**2184-6-8**]  04:05 AM
                             [**2184-6-9**]  04:08 AM
                             [**2184-6-10**]  03:28 AM
   WBC
   21.9
   11.6
   12.2
   14.2
   14.7
   11.1
   14.7
   12.1
   10.6
   Hct
   28.1
   24.7
   27.8
   28.4
   30.1
   27.7
   27.1
   29.7
   27.9
   26.1
   Plt
   [**Telephone/Fax (3) 7744**]82
   356
   334
   338
   330
   319
   Cr
   1.4
   1.4
   1.0
   0.8
   0.7
   0.6
   0.6
   0.6
   0.8
   Glucose
   136
   114
   179
   101
   100
   109
   98
   123
   132
   Other labs: PT / PTT / INR:14.5/85.1/1.3, ALT / AST:42/38, Alk Phos / T
   Bili:76/0.3, Amylase / Lipase:107/209, Differential-Neuts:88.0 %,
   Band:3.0 %, Lymph:4.0 %, Mono:1.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.1 g/dL, LDH:320 IU/L, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.5
   mg/dL
   Microbiology: no cx growth
   Assessment and Plan
   63-year-old man with altered mental status. R shoulder septic
   arthritis. Intubated [**Date range (1) 7734**] for agitation.
    R shoulder septic arthritis- pod 4 s/p OR washout of R shoulder
   -cx pending
   -ABX on vanco, presuming a minimum of 6wks of therapy, should get ID
   eval prior to dc.
   -PT consult
   Diarrhea- dc bowel regimen, may be med induced and noninfectious but
   always vigilant for C.diff
   -low threshold to check for C diff if any abd pain, fever, leukocytosis
   Tachycardia- ECG c/w a flutter on [**6-1**] and again [**6-8**], likely sec to
   hypovolemia
   -metop 75 qid, can convert to longer acting [**Hospital1 **] or qd regimen
   -transition heparin gtt to coumadin
   -echo with biatrial enlargement and poss small area of HK
   Encephalopathy / altered mental status- resolved
   -can dc thiamine and folate, cont MVI
   -minimize polypharmacy, prn Ativan for severe agitation and Dilaudid
   for severe pain
   Rest of plan as per housestaff note
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2184-6-7**] 09:35 PM
   PICC Line - [**2184-6-7**] 10:33 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, coumadin po)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes